US07582625B2
A5b) 1-(1-benzyl-4-methyl-piperidin-4-yl)-4-methyl-piperazine
10 mL methylmagnesium chloride solution (30 mmol, 3 M in THF) were added at RT to a solution of 3.0 g (10.1 mmol) 1-benzyl-4-(4-methyl-piperazin-1-yl)-piperidin-4-carbonitrile in 50 mL dry THF and the reaction mixture was stirred for 2 h. It was combined with saturated NH4Cl solution, stirred for 10 min, extracted exhaustively with diethyl ether and the combined organic phases were dried on Na2SO4. After the elimination of the desiccant and solvent the residue was purified by chromatography (Alox, activity stage II-III, gradient DCM/MeOH 100:1 to 50:1).

reactant | methylmagnesium chloride | 30 mmol, 3 M, 10 mL | C[Mg]Cl
reactant | 1-benzyl-4-(4-methyl-piperazin-1-yl)-piperidin-4-carbonitrile | 10.1 mmol, 3.0 g | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)N1CCN(CC1)C | C18H26N4
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(1-benzyl-4-methyl-piperidin-4-yl)-4-methyl-piperazine | C(C1=CC=CC=C1)N1CCC(CC1)(C)N1CCN(CC1)C | C18H29N3
